US08044206B2
Under argon atmosphere, 1M tetrahydrofuran solution of 1.3 ml of lithium bis(trimethylsilyl)amide was added at −78° C. to a solution of 300 mg of tert-butyl 4-acetylpiperidine-1-carboxylate in 4.0 ml of tetrahydrofuran, followed by stirring for 15 minutes. To the reaction mixture, a solution of 167 mg of 2,6-dimethylbenzaldehyde in 1.0 ml of tetrahydrofuran was added, followed by stirring at ambient temperature for 12 hours. Saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with diethyl ether. The organic layer was washed with water and then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated and the residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 235 mg of tert-butyl 4-[(E)-3-(2,6-dimethylphenyl)prop-2-enoyl]piperidine-1-carboxylate.

reactant | lithium bis(trimethylsilyl)amide | 1.3 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-butyl 4-acetylpiperidine-1-carboxylate | 300 mg | C(C)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO3
reactant | 2,6-dimethylbenzaldehyde | 167 mg | CC1=C(C=O)C(=CC=C1)C | C9H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | tert-butyl 4-[(E)-3-(2,6-dimethylphenyl)prop-2-enoyl]piperidine-1-carboxylate | 235 mg | CC1=C(C(=CC=C1)C)/C=C/C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C21H29NO3
